US07700589B2
4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[2-1,4′-bipiperidinyl-1′-yl-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide
Prepared analogously to Example 3f) from 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and [1,4′]-bipiperidinyl.

reactant | 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | C(C)C=1C=C(C=CC1CC)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | [1,4′]-bipiperidinyl | N1(CCCCC1)C1CCNCC1 | C10H20N2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[2-1,4′-bipiperidinyl-1′-yl-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide | N1(CCCCC1)C1CCN(CC1)C(C(CC1=CC(=C(C=C1)CC)CC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=O | C38H54N6O3
